US04740612
To 250 ml of methanol solution containing 24 g of sodium hydroxide were added 17 g of 2,2-dimethyl-3-(2',2',2'-trichloroethyl)-cyclopropyl methyl ketone (purity: 97.9%, cis/trans ratio 91.5/8.5) under cooling with ice, and then 40 g of bromine were added dropwise at -10° C. to -5° C. for 20 minutes and after stirring the mixture at the same temperature for 2 hours, 25.2 g of sodium sulfite (7 hydrate) and 250 ml of water were added thereto, and the mixture was heated up to 70° C. and stirred for 47 hours with heating. Then the methanol was distilled off, water was added to the reaction mixture and neutral part was removed by extraction with ether. The water layer was acidified with conc. hydrochloric acid under cooling with ice. The deposited crystals were filtered, washed with water and dried to obtain 9.85 g of 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylic acid, cis/trans ratio 89.8/10.2, purity 91.8%, yield 72.9%.

reactant | sodium hydroxide | 24 g | [OH-].[Na+]
reactant | 2,2-dimethyl-3-(2',2',2'-trichloroethyl)-cyclopropyl methyl ketone | 17 g | CC(=O)C1C(C1CC(Cl)(Cl)Cl)(C)C | C9H13Cl3O
reactant | bromine | 40 g | BrBr | Br2
reactant | sodium sulfite | 25.2 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 250 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylic acid | 9.85 g, yield 72.9% | CC1(C(C1C=C(Cl)Cl)C(=O)O)C | C8H10Cl2O2
